Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
"Do I have super powers?"
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mr. ___ is ___ ___ student with prior 
history of depression, with recent escalating alcohol and 
cocaine use, who presented to the ED on a ___ by a 
clinician at ___ for suicidal ideation and 
symptoms concerning for psychosis. Initial interview limited due 
to thought disorganization and pressured speech, but eventually 
capable of redirection. Patient endorsed worsening symptoms of 
depression for the past several weeks, including anhedonia, poor 
concentration and motivation, poor appetite with weight loss, 
hopelessness, and poor sleep.  He also endorsed suicidal 
ideation without a specific plan. He also endorsed co-occurring 
manic symptoms, including racing thoughts, pressured speech, 
increased risk-taking behaviors (cocaine and alcohol use), 
disorganized thought process, decreased need for sleep. He was 
unable to state whether the substance use preceded these 
symptoms or whether he started taking them after these symptoms 
arose, and frequently states that he has always had these 
symptoms. Indicated on both initial and subsequent evaluations 
that his substance use (particularly alcohol) has been 
escalating recently ___ beers per day x 3 weeks).

Regarding psychotic symptoms, patient endorsed auditory 
hallucinations (e.g. "Sometimes I'll hear the door close in the 
other room, or that people are there, but when I go and check, 
nothing has changed"). Denied paranoia or persecutory beliefs. 
Endorsed ideas of reference and belief that he can read people's 
minds (e.g. "I can intuit what people are thinking. And then 
they'll laugh, and I know that I'm right").  When asked if 
medicine received in ED effected recent/current symptoms for 
which he came to the hospital, stated, "I think the medicine is 
great. It made me a little sleepy, but it's helping." Agreed to 
continue PO risperidone and lorazepam. Stated goal for 
admission, "I just want to get on a medication that kills the 
annoying, negative thoughts," citing recent ruminative thought 
content about perceived failure and inadequacies. Denied current 
suicidal ideation, adding, "I feel less depressed here."

Patient's friend ___ (___) reached for collateral. 
___ has known patient since ___, believes that he is 
likely the closest friend to patient. ___ states that 
patient has "been lost" for some time now-- patient has 
expressed depression for a long time, but recently, over the 
last ___ months, things have gotten much worse. Patient has 
expressed concerns about others "being his enemies" and notes 
that patient has also markedly increased his cocaine use. Also 
states that over this same period of time patient has endorsed 
lots of energy and decreased sleeping. During this time he has 
not been following up with his classes and has been increasingly 
isolative. However, ___ states that the patient has never 
mentioned anything specific about desires to hurt himself or 
others, or any reference to hallucinations. In general, ___ 
expressed great concern with respect to ___ well-being.

 
Past Medical History:
Past medical history absent for any acute or chronic illnesses; 
no current PCP or medications.
.
Past psychiatric history notable for previous diagnosis of 
depression and anxiety; no previous hospitalizations. Brief 
medication trial w/ sertraline 50mg started by psychiatrist in 
___ and refilled x 2 at ___, then discontinued. Current 
providers at ___ - ___, counselor at 
___ and ___ saw ___ psych NP for the first time 
on ___. Denies history of previous suicide attempts or 
self-injurious behavior. Denies access to firearms or weapons
 
Social History:
Patient was born and raised in ___. Grew up with four 
siblings, he is the oldest, has one younger sister and three 
younger brothers. ___ history of physical or sexual abuse, 
feels he may have suffered emotional abuse growing up by his 
parents. Came to ___ at age ___ for ___ program and then began 
college at ___. Currently a senior studying ___ 
___, but has not been to classes for last 3 weeks and is 
failing. Lives in an apartment in ___ off campus with 
roommates, will be moving on his own to ___ when his 
lease expires in a few weeks. Provided verbal permission to 
contact his roommate and friend. 
.
Substance use history notable for escalating alcohol use, up to 
7 beers per day for the past 3 weeks. He also endorses cocaine 
use beginning ___ months ago, last use last night, using it 
"heavily". He reports that when he first started using it he 
noted that it helped him with his concentration and motivation. 
He also endorses some LSD use, last use 3 weeks ago, and 
marijuana use approximately every other day.
 
Family History:
Family psychiatric history absent for any known psychiatric 
hospitalizations or completed suicides.
 
Physical Exam:
VS: 24 HR Data (last updated ___ @ 1700) Temp: 97.9 (Tm 
97.9), BP: 105/68, HR: 75, RR: 18, O2 sat: 100%
Height: 70 in.   ___  
Weight: 50.1 kgs.   (110.45 lbs)   ___
BMI: 15.8

-GEN: Well-appearing, thin young man, sleeping comfortably in 
bed under blankets, dressed casually. Warm to touch, mildly 
diaphoretic. No acute distress.
-HEENT:  Normocephalic, atraumatic. Moist mucous membranes.
-Cardio:  Fast Rate and regular Rhythm, no murmurs/rubs/gallops
-Pulm:  Normal work of breathing, clear to auscultation 
bilaterally.
-Abd: Non-distended, non-tender to palpation, positive bowel 
sounds. Firm. 
-Ext: Warm and well perfused, capillary refill < 2 seconds
-Neuro: CN: refused to open eyes. facial sensation to touch 
equal in all 3 divisions bilaterally, face symmetric  on eye 
closure and smile, hearing normal bilaterally to rubbing 
fingers, phonation normal, head turning and shoulder shrug 
intact, tongue midline. 
-Strength:  ___ throughout. Declined reflex testing. 
-Sensation: within normal limits to light touch. 
-Gait and station: Declined gait testing. Abnormal movements: No 
tremor or abnormal movements appreciated.
.
Thin young man who appears stated age, somewhat disheveled, 
casually dressed, in no acute distress. Calm, cooperative with 
interview; appropriate eye contact. Mood is "depressed;" Affect 
is expansive, incongruent, stable. Thought process is tangential 
but capable of redirection. Thought content as per HPI . Denies 
current perceptual disturbances; does not appear internally 
preoccupied. Judgment and insight impaired.
 
Pertinent Results:
___ 08:06PM BLOOD WBC-6.1 RBC-4.25* Hgb-14.1 Hct-40.4 
MCV-95 MCH-33.2* MCHC-34.9 RDW-13.2 RDWSD-45.8 Plt ___

___ 06:08PM BLOOD ALT-63* AST-53* LD(LDH)-189 AlkPhos-67 
TotBili-<0.2
___ 07:17PM BLOOD ALT-95* AST-60* AlkPhos-65 TotBili-0.2
___ 01:45PM BLOOD ALT-83* AST-43* AlkPhos-66 TotBili-<0.2

___ 12:57AM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-1000* Ketone-NEG Bilirub-NEG Urobiln-NEG pH-5.5 
Leuks-NEG
___ 06:13PM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-1000* Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.5 
Leuks-SM*

___ 12:59AM URINE CT-POS* NG-NEG

___ Cholest 164, Triglyc 55, HDL 54, LDLcalc 99, HbA1c 5.2
___ Valproate Level 79 

___ TSH 3.0

___ 
Hepatitis B Surface AntigenNEG
Hepatitis B Surface AntibodyPOS
Hepatitis B Virus Core Antibody NEG
Hepatitis C Virus Antibody NEG
 
Brief Hospital Course:
1. LEGAL & SAFETY:  
On admission, the patient signed a conditional voluntary 
agreement (Section 10 & 11). On ___ patient signed a 
three-day notice, which was then retracted and re-signed on 
___. He was placed on 15 minute checks status on admission, 
which was increased to 5 minute checks due to concern for 
inappropriate remarks towards staff and other patients. Later 
patient was advanced again to 15 minute checks. He remained unit 
restricted throughout his admission.
.
2. PSYCHIATRIC:
Upon presentation to the unit, patient continued to describe 
symptoms of depression, stating that he had been feeling sad for 
some time. He also stated that he had been sleeping less though 
had not been getting tired. He also at that time endorsed 
suicidal ideation. Mental status exam at that time was notable 
for racing thoughts, disorganized thought process, grandiosity, 
magical thinking, and expansive affect.
.
Patient's presentation appeared most consistent with a manic 
episode as part of a bipolar disorder, possibly rapid cycling 
due to the abrupt onset of manic symptoms following his arrival 
to ___. Of note, the temporal relationship between his drug 
use (most notably cocaine) and his symptoms is not clear, though 
the persistence of his symptoms following discharge is more 
consistent with a primary mood disorder rather than a 
substance-induced affective episode. Unclear if previous 
.
Patient was initially started on risperidone and lorazepam, 
given concern for possible alcohol withdrawal. He was 
transitioned from risperidone to paliperidone for once-daily 
dosing to improve adherence; paliperidone titrated to discharge 
dose of 9mg QHS. Patient tolerated this medication and denied 
any medication side effects For additional mood stabilization, 
patient was started on divalproex ER 500 mg BID; trough prior to 
discharge was therapeutic at 79ug/mL
.
Over the course of patient's admission, he exhibited diminishing 
grandiosity and increasingly linear thought process. Patient 
consistently denied ongoing suicidal ideation. He also denied 
ongoing auditory hallucinations. Patient reported sleeping 
through the night and "enjoying life again." On discharge, 
patient described mood as "very good," and he demonstrated 
congruent, reactive, and full-range affect, a linear thought 
process, and no suicidal or homicidal ideation. He denied any 
auditory hallucinations. He briefly commented on several themes 
of paranoia, but then spontaneously stated that he did not 
really believe them. He demonstrated markedly improved insight 
and judgment at the end of his admission, self-identifying 
social supports to help him maintain stability following his 
discharge.
.
3. SUBSTANCE USE DISORDERS:
#) Alcohol, Cocaine, and Nicotine Use Disorders: Patient 
received psychoeducation related to the connection between his 
symptoms and his drug use. Given his motivation to cut down on 
his drinking and drug use, patient was offered naltrexone; 
patient consented to starting. Although the patient did receive 
a nicotine patch during his inpatient stay, he declined the use 
of a patch as an outpatient. He is still precontemplative with 
respect to cutting down on his smoking.
.
4. MEDICAL
#) Glycosuria: patient noted to have isolated glycosuria on 
repeat urinalysis readings. Blood glucose and A1c noramal. No 
evidence of metabolic acidosis or phosphaturia indicative of a 
T2 RTA/Fanconi's syndrome. Per conversation with renal, nothing 
to do at this time; likely genetic disorder involved with 
proximal tubular handling of glucose. 
.
#) Chlamydia Trachomatis: Patient noted to have positive NAAT 
for CT on admission. NG negative. Denies any symptoms (e.g. 
penile discharge). Patient counselled on safe sexual practice, 
received 1 g azithromycin PO x1. Patient encouraged to alert his 
sexual partern(s) to this infection, which he agreed to do. 
___ notified as per protocol.
.
#) Transaminitis: On baseline labs prior to valproate, patient 
noted to have mild transaminitis ALT>AST. Viral hepatatis labs 
reassuring, no evidence of hepB/hepC infection. Downtrending on 
repeat check.
.
5. PSYCHOSOCIAL
#) GROUPS/MILIEU:  
The patient was encouraged to participate in the various groups 
and milieu therapy opportunities offered by the unit. The 
patient often attended these groups that focused on teaching 
patients various coping skills. Throughout his stay patient was 
interactive in milieu and conversed frequently with staff and 
other patients.
.
#) COLLATERAL INFORMATION AND  FAMILY INVOLVEMENT
___ provided verbal consent for his providers to speak to his 
friends and family. Patient's friend ___ (___) was 
reached multiple times during admission for collateral. On 
admission, ___ stated that patient had expressed depression 
for a long time, but recently, over the last ___ months, things 
have gotten much worse. Patient had expressed concerns about 
others "being his enemies" and noted that patient had also 
markedly increased his cocaine use. Also stated that over this 
same period of time patient had endorsed lots of energy and 
decreased sleeping. During this time he had not been following 
up with his classes and had been increasingly isolative. In 
general, ___ expressed concern with respect to ___ 
well-being.
.
Patient's father in ___ was also reached. Due to the 
poor phone connection a longer conversation related to 
collateral was not possible, but the father was updated as to 
the general condition of ___. The father was provided with 
contact information should he want to call the hospital for more 
information.

#) INTERVENTIONS
- Medications: Divalproex, Paliperidone, Naltrexone
- Psychotherapeutic Interventions: Individual, group, and milieu 
therapy.
- Coordination of aftercare: Follow up with outpatient 
medication and therapy provider, PCP, ___ meeting with 
school counselor.
- Behavioral Interventions (e.g. encouraged DBT skills, ect): 
Redirection when patient exhibited inappropriate behavior, 
psychoeducation related to drug use
.
INFORMED CONSENT: The team discussed the indications for, 
intended benefits of, and possible side effects and risks of 
starting Invega, Naltrexone, and Divalproex, and risks and 
benefits of possible alternatives, including not taking these 
medications, with this patient. We discussed the patient's right 
to decide whether to take these medications as well as the 
importance of the patient's actively participating in the 
treatment and discussing any questions about medications with 
the treatment team.  The patient appeared able to understand and 
consented to begin the medication. He was provided with 
additional information about these medications with handouts 
from ___.
.
RISK ASSESSMENT & PROGNOSIS
On presentation, the patient was evaluated and felt to be at an 
increased risk of harm to herself and/or others based upon 
suicidal ideation, manic symptoms, and drug/alcohol use. His 
static factors noted at that time included male gender and age. 
The modifiable risk factors were also addressed at that time: 
suicidal ideation without plan (provided appropriate 
pharmacotherapy, discussed crisis planning and reaching out to 
providers with patient), mania (initiated treatment with 
paliperidone and divalproex, limited outpatient treatment 
(provided with multiple outpatient providers), and active 
substance abuse (provided psychoeducation as well as started 
naltrexone).  Finally, the patient is being discharged with many 
protective risk factors, including a lack of suicidal ideation, 
no previous suicide attempts, help-seeking nature, 
future-oriented viewpoint, and overall life satisfaction. 
Overall, the patient is not at an acutely elevated risk of 
self-harm nor danger to others due to acutely decompensated 
psychiatric illness.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
1.  Divalproex (DELayed Release) 500 mg PO BID 
RX *divalproex ___ mg 1 tablet(s) by mouth two times per day 
Disp #*28 Tablet Refills:*0 
2.  Naltrexone 50 mg PO DAILY 
RX *naltrexone 50 mg 1 tablet(s) by mouth once per day Disp #*14 
Tablet Refills:*0 
3.  Nicotine Patch 21 mg TD DAILY Nicotine withdrawal 
RX *nicotine 21 mg/24 hour 1 patch applied to skin daily (every 
24 hours) Disp #*14 Patch Refills:*0 
4.  PALIperidone ER 9 mg PO QHS Mania 
RX *paliperidone 9 mg 1 tablet(s) by mouth at night Disp #*14 
Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Bipolar I Disorder, Rapid Cycling, Current Episode Manic, With 
Psychotic Features
 
Discharge Condition:
*Appearance: thin-appearing young man wearing ___ Tang t-shirt, 
sitting in chair, appears stated age
  Behavior: cooperative, excitable, relaxed eye contact, engaged 
with interview. No evidence of pressured speech, speaking at 
normal volume. 
  *Mood and Affect: 'very good,' concordant affect, euthymic 
versus mild hyperthymia.
  *Thought process: linear without loosening
  *Thought Content: Absent for persistent delusional, paranoid, 
or grandiose beliefs; Denies hearing 'sounds' anymore. Denies 
suicidal ideation or homicidal ideation. 
  *Judgment and Insight: Improved insight-- thinks that he has a 
'mental condition' that has led to him being admitted to the 
hospital. Judgment improved-- after a brief open-ended 
non-confrontational conversation able to identify paranoid 
thinking, states that he will let doctors know if his condition 
worsens.
 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Unless a limited duration is specified in the prescription, 
please continue all medications as directed until your 
prescriber tells you to stop or change.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___